US08222414B2
Step A: {(R)-2-[7-(1,4-dioxa-spiro[4,5]dec-8-ylamino)-5-methyl-1H-indol-2-yl]-4,5-dihydro-thiazol-4-yl}-acetic acid ethyl ester
{(R)-2-[5-methyl-7-nitro-1H-indol-2-yl]-4,5-dihydro-thiazol-4-yl}-acetic acid ethyl ester prepared in Preparation 54 and 1,4-dioxa-spiro[4,5]decan-8-one were reacted according to the same procedure as Example 1 to give the title compound.

reactant | {(R)-2-[5-methyl-7-nitro-1H-indol-2-yl]-4,5-dihydro-thiazol-4-yl}-acetic acid ethyl ester | C(C)OC(C[C@H]1N=C(SC1)C=1NC2=C(C=C(C=C2C1)C)[N+](=O)[O-])=O | C16H17N3O4S
reactant | 1,4-dioxa-spiro[4,5]decan-8-one | O1CCOC12CCC(CC2)=O | C8H12O3
product | {(R)-2-[7-(1,4-dioxa-spiro[4,5]dec-8-ylamino)-5-methyl-1H-indol-2-yl]-4,5-dihydro-thiazol-4-yl}-acetic acid ethyl ester | C(C)OC(C[C@H]1N=C(SC1)C=1NC2=C(C=C(C=C2C1)C)NC1CCC2(OCCO2)CC1)=O | C24H31N3O4S
